US06458806B1
Step A: Preparation of Ethyl 5-(3,4-dichlorophenyl)-3-methyl-pentadienoate.
A suspension of sodium hydride (0.40 g. 10.0 mmol) in anhydrous dimethoxyethane (5 mL) is cooled in a room temperature water bath. While stirring vigorously, triethyl-3-methyl-4-phosphonocrotonate (2.64 g, 10 mmol), is added dropwise over 10 minutes. After gas evolution has stopped, (˜5 minutes) the reaction mixture is treated with a solution of 3,4-dichlorobenzaldehyde (1.75 g, 10 mmol) in anhydrous dimethoxyethane (5 mL). The resulting brown solution is then heated to reflux. After three hours, the mixture is cooled and quenched with saturated aqueous brine. The aqueous layer is extracted several times with EtOAc, and the combined organic layers are dried (sodium sulfate) and concentrated in vacuo. The resulting brown oil is chromatographed on silica gel eluting with 7% EtOAc: 93% hexane to give 1.146 g of a brown oil, which is a 1:1 mixture of alkene isomers at C-2.

reactant | sodium hydride | 10.0 mmol, 0.40 g | [H-].[Na+]
reactant | triethyl-3-methyl-4-phosphonocrotonate | 10 mmol, 2.64 g | C(C)C(/C(=C(/C(=O)[O-])\CC)/C)(P(=O)(O)O)CC
reactant | 3,4-dichlorobenzaldehyde | 10 mmol, 1.75 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
product | Ethyl 5-(3,4-dichlorophenyl)-3-methyl-pentadienoate | 1.146 g | ClC=1C=C(C=CC1Cl)C=CC(=CC(=O)OCC)C | C14H14Cl2O2
